US07442808B2
Alternate Synthesis of 2-(Difluoromethoxy)-1-fluoro-4-trifluoromethylbenzene
A 100-L round bottom flask equipped with overhead stirrer, thermocouple, nitrogen inlet, condenser and steam bath was charged with 2-fluoro-5-(trifluoromethyl)phenol (5.50 kg), sodium chlorodifluoroacetate (9.31 kg), and DMF (4 L). There was an exotherm to 46.7° C. when the 4 L of DMF was charged to the flask. The temperature of the reaction was immediately reduced to 19° C. by rapid cooling with an ice/water bath. An additional 37.3 L of DMF (total DMF, 41.3 L) was then slowly charged, maintaining the internal temperature below 30° C. After cooling to ambient temperature, water (5.5 L) was charged, resulting in a 10° C. exotherm. Potassium carbonate (5.28 kg) was then added. The ice water bath was removed and the batch was heated to 97° C. using a steam bath. The reaction was complete after aging for 2 h at 97° C., as evidenced by HPLC assay, with <1% starting material remaining. The reaction was cooled to ambient temperature, and water (42 L) was slowly added. The batch was transferred to a 170-L extractor and extracted with MTBE (2×18 L). The organic layers were combined and washed with water (1×11 L) and brine (1×11 L). The MTBE solution was pumped into a 22-L flask equipped with a thermocouple, distillation apparatus, and a heating mantle. The MTBE was distilled off at 55-118° C. and atmospheric pressure. The desired product was purified by distillation at 120-157° C. and atmospheric pressure, and was isolated as a clear oil.

reactant | 2-fluoro-5-(trifluoromethyl)phenol | 5.50 kg | FC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F4O
reactant | sodium chlorodifluoroacetate | 9.31 kg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | DMF | 4 L | CN(C)C=O | C3H7NO
reactant | DMF | 4 L | CN(C)C=O | C3H7NO
reactant | DMF | 37.3 L | CN(C)C=O | C3H7NO
reactant | Potassium carbonate | 5.28 kg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 5.5 L | O | H2O
product | 2-(Difluoromethoxy)-1-fluoro-4-trifluoromethylbenzene | FC(OC1=C(C=CC(=C1)C(F)(F)F)F)F | C8H4F6O
